US07232819B2
Step 6: N-(4-fluorobenzyl)-5,6-dihydroxy-2-(7-methyl-7-azabicyclo[2.2.1]hept-1-yl)pyrimidine-4-carboxamide (C-40)
Benzyl 1-[5-(benzoyloxy)-4-hydroxy-6-(methoxycarbonyl) pyrimidin-2-yl]-7-azabicyclo[2.2.1]heptane-7-carboxylate (C-39) in methanol was hydrogenated under H2 atmosphere in presence of Pd/C 10% (10% w/w) at room temperature for 2 hours. After filtration and evaporation, the crude was dissolved in MeOH and p-fluorobenzylamine (3.5 eq.) added. After being refluxed overnight, the residue was washed with Et2O/EP. The solid was dissolved in MeOH and NaCNBH3 (1.4 eq.), AcONa (1.6 eq.), HCHO 37% (1 eq.) were added. The reaction mixture was stirred at room temperature overnight. The product was purified by preparative HPLC (C18, gradient CH3CN/H2O+0.01% TFA) to obatine the title compound (C-40) as trifluoro acetate salt.

reactant | Benzyl 1-[5-(benzoyloxy)-4-hydroxy-6-(methoxycarbonyl) pyrimidin-2-yl]-7-azabicyclo[2.2.1]heptane-7-carboxylate | C(C1=CC=CC=C1)(=O)OC=1C(=NC(=NC1C(=O)OC)C12CCC(CC1)N2C(=O)OCC2=CC=CC=C2)O | C27H25N3O7
reactant | p-fluorobenzylamine | 3.5 eq. | FC1=CC=C(CN)C=C1 | C7H8FN
reactant | NaCNBH3 | 1.4 eq. | [BH3-]C#N.[Na+]
reactant | AcONa | 1.6 eq. | C(=O)(C)O[Na]
reactant | HCHO | 1 eq. | C=O | CH2O
solvent | methanol | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | N-(4-fluorobenzyl)-5,6-dihydroxy-2-(7-methyl-7-azabicyclo[2.2.1]hept-1-yl)pyrimidine-4-carboxamide | FC1=CC=C(CNC(=O)C2=NC(=NC(=C2O)O)C23CCC(CC2)N3C)C=C1 | C19H21FN4O3
